US05889002
b) 5-Chloro-2-sulfamoylthiophene-3-carbohydrazide
Ethyl 5-chloro-2-sulfamoylthiophene-3-carboxylate (50.0 g; 0.185 mol) was added in one portion to 98% hydrazine hydrate (50 ml) with stirring at ambient temperature. The reaction was slightly exothermic. The solution was stirred for 90 min. and concentrated. The residue was crystallised by trituration with 250 ml of water and the mixture was adjusted to pH 2-3 with conc. hydrochloric acid and stirred for 30 min. at 0° C. The product was isolated by filtration, washed with water and dried to give 42.2 g (89%) of the title compound; 1H-NMR (DMSO-d6): δ 4.7 (br. s, 2H, NH2), 7.49 (s, 1H), 7.71 (br. s, 2H, NH2), 9.94 (br. s, 1H, NH).

reactant | Ethyl 5-chloro-2-sulfamoylthiophene-3-carboxylate | 0.185 mol, 50.0 g | ClC1=CC(=C(S1)S(N)(=O)=O)C(=O)OCC | C7H8ClNO4S2
reactant | hydrazine hydrate | 50 ml | O.NN
product | 5-Chloro-2-sulfamoylthiophene-3-carbohydrazide | 42.2 g, 89% | ClC1=CC(=C(S1)S(N)(=O)=O)C(=O)NN | C5H6ClN3O3S2
